US07714168B2
To 10 ml of DMF were added 0.4 g of N-(1,1,2-trimethylpropyl)-4-hydroxy-3-methoxybenzamide, 0.28 g of propargyl bromide and 0.78 g of cesium carbonate and the mixture was heated under reflux for 1 hour. Then, the reaction mixture was concentrated. Dilute hydrochloric acid was added to the residue and extracted with ethyl acetate. After the organic layer was dried over magnesium sulfate, it was concentrated under reduced pressure. The solid obtained was successively washed with hexane and methyl tert-butyl ether to obtain 0.33 g of N-(1,1,2-trimethylpropyl)-4-(2-propynyloxy)-3-methoxybenzamide (hereinafter, described as the compound 11 of the present invention) represented by the formula:

reactant | N-(1,1,2-trimethylpropyl)-4-hydroxy-3-methoxybenzamide | 0.4 g | CC(C(C)C)(C)NC(C1=CC(=C(C=C1)O)OC)=O | C14H21NO3
reactant | propargyl bromide | 0.28 g | C(C#C)Br | C3H3Br
reactant | cesium carbonate | 0.78 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-(1,1,2-trimethylpropyl)-4-(2-propynyloxy)-3-methoxybenzamide | 0.33 g | CC(C(C)C)(C)NC(C1=CC(=C(C=C1)OCC#C)OC)=O | C17H23NO3
